US04866068
(b) 2-methyl-2-(4-pyridinylthio)propionic acid
A solution of 1.7 grams NaOH in 5 ml of water was added dropwise to a solution of 8.79 grams of ethyl 2-methyl-2-(4-pyridinylthio)propionate in 15 ml methanol. The solution was stirred at room temperature overnight, and then concentrated in vacuo to remove methanol. Concentrated HCl was added to the sodium salt and the mixture triturated with isopropanol and heated on the steam bath. The mixture was then cooled and filtered to remove sodium chloride. The filtrate was concentrated in vacuo and the resulting gummy solid dissolved by adding hot isopropanol. The mixture was cooled and filtered to give the title compound. The filtrate upon concentration and cooling gave a further yield of the title compound. M.P. 190°-192° C.; 1NMR and IR were both in agreement for the titled compound.

reactant | NaOH | 1.7 grams | [OH-].[Na+]
reactant | ethyl 2-methyl-2-(4-pyridinylthio)propionate | 8.79 grams | CC(C(=O)OCC)(C)SC1=CC=NC=C1 | C11H15NO2S
solvent | water | 5 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 2-methyl-2-(4-pyridinylthio)propionic acid | CC(C(=O)O)(C)SC1=CC=NC=C1 | C9H11NO2S
